US04830659
To a stirred, cold (-20° C.) solution of 11.3 g (0.0529 mole) of perhydropyridazine hydroiodide in 200 mL of methylene chloride was added 16.1 g (0.159 mole) of triethylamine. While maintaining a reaction temperature of -25° C., a solution of 12.8 g (0.0481 mole) of (7-fluoro-4-propyl-2H-1,4-benzoxazin-3(4H)-on-6-yl)isothio-cyanate in methylene chloride was added. After complete addition, the reaction mixture was stirred at -20° C. for 2.5 hours. The solvent was removed from the mixture by evaporation under reduced pressure leaving a residue. This residue was partitioned between ethyl acetate and water. The organic phase was dried over anhydrous magnesium sulfate and was filtered. The filtrate was evaporated under reduced pressure leaving an oily solid residue. This oily solid was dissolved in methylene chloride to which was added n-heptane, causing a precipitate to form. The precipitate was collected by filtration and was dried to yield 12.0 g of N-(7-fluoro-4-propyl-2H- 1,4-benzoxazin-3(4H)-on-6yl)aminothiocar-bonylperhydropyridazine.

reactant | perhydropyridazine hydroiodide | 0.0529 mole, 11.3 g | I.N1NCCCC1
reactant | triethylamine | 0.159 mole, 16.1 g | C(C)N(CC)CC | C6H15N
reactant | (7-fluoro-4-propyl-2H-1,4-benzoxazin-3(4H)-on-6-yl)isothio-cyanate | 0.0481 mole, 12.8 g | FC1=CC2=C(N(C(CO2)=O)CCC)C=C1N=C=S | C12H11FN2O2S
reactant | n-heptane | CCCCCCC | C7H16
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
product | N-(7-fluoro-4-propyl-2H- 1,4-benzoxazin-3(4H)-on-6yl)aminothiocar-bonylperhydropyridazine | 12.0 g | FC1=CC2=C(N(C(CO2)=O)CCC)C=C1NC(=S)N1NCCCC1 | C16H21FN4O2S
